US06037354
Step D: 2-(4-Oxocyclohexyl)benzonitrile
To a stirring solution of 2-(1,4-Dioxaspiro[4.5]dec-8-yl)benzonitrile (8.7 g, 35.7 mmol) in dioxane (200 mL) was added 1N HCl (200 mL) and the reaction heated to 80° C. for 2 hours. The reaction was cooled to room temperature and poured into water (1 L) the mixture was extracted with ethyl acetate (3×250 mL). The combined organics were washed with brine (200 mL) and then dried over anhydrous magnesium sulfate, filtered and concentrated at reduced pressure to give the product.

reactant | 2-(1,4-Dioxaspiro[4.5]dec-8-yl)benzonitrile | 35.7 mmol, 8.7 g | O1CCOC12CCC(CC2)C2=C(C#N)C=CC=C2 | C15H17NO2
reactant | HCl | 1N, 200 mL | Cl | ClH
reactant | water | 1 L | O | H2O
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 2-(4-Oxocyclohexyl)benzonitrile | O=C1CCC(CC1)C1=C(C#N)C=CC=C1 | C13H13NO
